US06264917B1
iv) Synthesis of N-Boc-4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid
A solution of the 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid hydrochloride (2.0 mmol) in water (2 ml) was added to a solution of sodium bicarbonate (0.60 g, 7.2 mmol) in water/dioxane (2:1, 15 ml). A solution of di-tert-butyl dicarbonate (0.48 g, 2.2 mmol) in dioxane (5 ml) was added. Progress of the reaction was monitored by TLC analysis (silica, CHCl3/MeOH/AcOH 85:10:5), and portions of di-tert-butyl dicarbonate were added until conversion was complete. The reaction mixture was poured onto water saturated with potassium hydrogen sulphate and organic material was extracted into ethyl acetate. The organic phase was washed with water and brine, dried (Na2SO4) and filtered to give 0.6 g of crude material. The product was purified by chromatography (silica, CHCl3/MeOH/AcOH 85:10:5). The solution was concentrated and the residue was taken up in glacial acetic acid and lyophilised. Yield 415 mg (56%), white solid. The structure was confirmed by 1H and 13C NMR analysis.

reactant | 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid hydrochloride | 2.0 mmol | Cl.OC(COC1=CC=C(C=C1)CC(=O)O)CNC(C)C
reactant | sodium bicarbonate | 7.2 mmol, 0.60 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 2.2 mmol, 0.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | water | 2 ml | O | H2O
solvent | water dioxane | 15 ml | O.O1CCOCC1
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | CHCl3 MeOH AcOH | C(Cl)(Cl)Cl.CO.CC(=O)O
product | N-Boc-4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid | 0.6 g | C(=O)(OC(C)(C)C)N(CC(COC1=CC=C(C=C1)CC(=O)O)O)C(C)C | C19H29NO6
